US08283353B2
2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoic acid
To a mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (4 g), rhodium(I) acetate (0.028 g) and toluene (70 mL) was added dropwise a solution (10 mL) of 3-ethoxy-2-methyl-3-oxopropane-1-diazonium (5.5 mL) in toluene at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated, and the obtained residue was purified by silica gel column chromatography. The obtained residue was dissolved in tetrahydrofuran (20 mL) and methanol (20 mL), and 1N aqueous sodium hydroxide solution (20 mL) was added. The reaction mixture was stirred for 1 hr, 1N aqueous hydrochloric acid solution was added, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (4.1 g, 89%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 4 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H29N5O2
reactant | 3-ethoxy-2-methyl-3-oxopropane-1-diazonium | 10 mL | C(C)OC(C(C[N+]#N)C)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(I) acetate | 0.028 g | C(C)(=O)[O-].[Rh+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoic acid | 4.1 g, 89% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)O)C)=O | C31H33N5O4
